US07842701B2
Methyl{[3-amino-2-(5-hydroxy-2-methyl-4-phenoxyphenyl)-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-7-yl]oxy}acetate
To a mixture of acetyl chloride (2 ml) and methanol (20 ml) was added {[3-amino-2-(5-hydroxy-2-methyl-4-phenoxyphenyl)-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-7-yl]oxy}acetic acid (145 mg). The mixture was heated under reflux with stiring for one night. The reaction mixture was cooled, a 5% aqueous sodium hydrogen carbonate solution was added thereto, and extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. To the residue was added ethyl acetate-hexane, the precipitated solid was collected by filtration, washed with ethyl acetate-hexane to obtain the target compound (130 mg).

reactant | acetyl chloride | 2 ml | C(C)(=O)Cl | C2H3ClO
reactant | {[3-amino-2-(5-hydroxy-2-methyl-4-phenoxyphenyl)-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-7-yl]oxy}acetic acid | 145 mg | NC=1N(N=C2C1C(NC=1C=C(C=CC21)OCC(=O)O)=O)C2=C(C=C(C(=C2)O)OC2=CC=CC=C2)C | C25H20N4O6
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | Methyl{[3-amino-2-(5-hydroxy-2-methyl-4-phenoxyphenyl)-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-7-yl]oxy}acetate | 130 mg | COC(COC=1C=CC=2C=3C(C(NC2C1)=O)=C(N(N3)C3=C(C=C(C(=C3)O)OC3=CC=CC=C3)C)N)=O | C26H22N4O6
